US06136810
1 M Methylmagnesium bromide (14 ml, 14 mmol) was added to a solution of 4.4 g (14 mmol) of 4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one-7-carbaldehyde in 50 ml of tetrahydrofuran under ice-cooling, followed by stirring for 30 minutes under ice-cooling. Then, 7 ml (7 mmol) of 1 M methylmagnesium bromide was added and the mixture was stirred for 30 minutes under ice-cooling. Then, saturated ammonium chloride aqueous solution was added, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate-chloroform) to give 1.4 g of 4-(3-chlorophenyl)-1-ethyl-7-(1-hydroxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one. The yield was 30%.

reactant | Methylmagnesium bromide | 14 mmol, 1 M, 14 ml | C[Mg]Br
reactant | 4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one-7-carbaldehyde | 14 mmol, 4.4 g | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C=O | C16H12ClN3O2
reactant | methylmagnesium bromide | 7 mmol, 1 M, 7 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(3-chlorophenyl)-1-ethyl-7-(1-hydroxyethyl)pyrido[2,3-d]pyrimidin-2(1H)-one | 1.4 g, yield was 30% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)C(C)O | C17H16ClN3O2
